US09382241B2
To around bottom flask was added 6-chloro-8-iodo-3H-quinazolin-4-one (1000 mg, 3.3 mmol); and thionyl chloride (50 mL). DMF (0.1 mL) was then added, and the reaction was stirred at reflux for 2 h. The reaction was cooled to room temperature, then concentrated via rotovap. The product was then azeotroped 2× with DCM, then dried under vacuum yielding 4,6-dichloro-8-iodo-quinazoline, carried immediately to the next step. 1H NMR (400 MHz, DMSO) δ 9.24-9.20 (s, 1H), 8.77-8.73 (d, J=2.2 Hz, 1H), 8.36-8.31 (d, J=2.2 Hz, 1H).

reactant | 6-chloro-8-iodo-3H-quinazolin-4-one | 3.3 mmol, 1000 mg | ClC=1C=C2C(NC=NC2=C(C1)I)=O | C8H4ClIN2O
reactant | thionyl chloride | 50 mL | S(=O)(Cl)Cl | Cl2OS
solvent | DMF | 0.1 mL | CN(C)C=O | C3H7NO
product | 4,6-dichloro-8-iodo-quinazoline | ClC1=NC=NC2=C(C=C(C=C12)Cl)I | C8H3Cl2IN2
